US04156011
(a) 4-(4-Chlorophenoxy)-phenoxy-acetonitrile
A solution of 3.78 g (0.0500 mol) of chloroacetonitrile in 10 ml of anhydrous ethanol is run over the course of 20 minutes into a solution of 1.04 g (0.0453 mol) of sodium and 10 g (0.0453 mol) of p-(p-chlorophenoxy)-phenol in 50 ml of anhydrous ethanol and the mixture is then heated to the reflux temperature for 4 hours. It is evaporated to dryness under reduced pressure and the residue is dissolved in diethyl ether, which is washed with water and with dilute sodium hydroxide solution. After drying over dry sodium sulphate and evaporating the solvent from the organic phase, 12 g of an orange-coloured oil are obtained. Purification of this oil by distillation under reduced pressure gives 9.5 g of a limpid pale yellow oil which is insoluble in water.

reactant | chloroacetonitrile | 0.0500 mol, 3.78 g | ClCC#N | C2H2ClN
reactant | sodium | 0.0453 mol, 1.04 g | [Na] | Na
reactant | p-(p-chlorophenoxy)-phenol | 0.0453 mol, 10 g | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(4-Chlorophenoxy)-phenoxy-acetonitrile | 9.5 g, Yield=81% | ClC1=CC=C(OC2=CC=C(OCC#N)C=C2)C=C1 | C14H10ClNO2
